US05720898
6 ml of dimethylformamide was added to 6.20 g (19.1 mM) of 10-undecenyl p-toluenesulfonate and 3.17 g (19.1 mM) of ethyl p-hydroxybenzoate, followed by sufficient stirring. Into the resultant solution was added 0.77 g (19.3 mM) of sodium hydride (60%), followed by heat-refluxing for 7 hours. After the reaction, dimethylformamide was distilled off, followed by addition of water and extraction with ether. To the ether extract liquid was added anhydrous sodium sulfate for drying, followed by distilling-off of the ether and separation-purification by column chromatography (developer solvent: methylene chloride) to obtain 5.80 g (18.2 mM) of ethyl p-(10-undecenyl)oxybenzoate. Yield: 91.2%.

reactant | 10-undecenyl p-toluenesulfonate | 19.1 mM, 6.20 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCC=C)C | C18H28O3S
reactant | ethyl p-hydroxybenzoate | 19.1 mM, 3.17 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | sodium hydride | 19.3 mM, 0.77 g | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | ethyl p-(10-undecenyl)oxybenzoate | 18.2 mM, 5.80 g, Yield: 91.2% | C(CCCCCCCCC=C)OC1=CC=C(C(=O)OCC)C=C1 | C20H30O3
